US04996235
3-Phenyl-4-(4-trifluoromethylphenyl)butanol (3.65 g, 12.4 mmole) was dissolved in 50 ml of tetrahydrofuran and the resulting solution was cooled to about 0° C. Triethylamine (1.82 ml, 13.0 mmole) was added, followed by the dropwise addition of 1.01 ml (13.0 mmole) of methanesulfonyl chloride over a five minute period. The solution was stirred at room temperature (22° C.) for about 2 hours. The reaction solution was then partitioned between ethyl acetate and water. The resulting organic layer was washed with a saturated brine solution, dried over anhydrous sodium sulfate, and then concentrated under reduced pressure to provide 4.47 g of 3-phenyl-4-(4-trifluoromethylphenyl)butane sulfonic acid methyl ester as a yellow oil. N.M.R. analysis (300 MHz instrument, in CDCl3) provided: δ=1.98-2.25 (broad multiplet, 2H); 2.80 (singlet, 3H); 3.00 (multiplet, 3H); 3.92 and 4.09 (multiplet, 2H); 7.02-7.45 (multiplet, 9H).

reactant | 3-Phenyl-4-(4-trifluoromethylphenyl)butanol | 12.4 mmole, 3.65 g | C1(=CC=CC=C1)C(CCO)CC1=CC=C(C=C1)C(F)(F)F | C17H17F3O
reactant | Triethylamine | 13.0 mmole, 1.82 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 13.0 mmole, 1.01 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 3-phenyl-4-(4-trifluoromethylphenyl)butane sulfonic acid methyl ester | 4.47 g | COS(=O)(=O)CCC(CC1=CC=C(C=C1)C(F)(F)F)C1=CC=CC=C1 | C18H19F3O3S
